US06495543B1
Step A: 2-(6-Methoxy-3-nitro-2-pyridinyl)acetonitrile
Under argon and in an anhydrous medium, 15 g (97.3 mmol) of 2-methoxy-5-nitropyridine and 17.9 g (107 mmol) of 4-chlorophenoxyacetonitrile are dissolved in 300 ml of anhydrous tetrahydrofuran; the solution is added by transfer to a solution of 24 g (214 mmol) of potassium tert-butylate in 220 ml of anhydrous tetrahydrofuran maintained at a temperature below −10° C. The reaction mixture is stirred for three hours at a temperature of from −10 to −15° C. An aqueous 5% hydrochloric acid solution (170 ml) is added dropwise to the reaction mixture, maintaining the temperature at −10° C. The mixture is extracted with ethyl acetate. After drying over magnesium sulphate and evaporation, the residue is purified by flash chromatography over silica gel (eluant: petroleum ether/ethyl acetate, 2:1). After washing with a petroleum ether/diethyl ether mixture (2:1), the title compound is obtained in the form of a brown product.

reactant | 2-methoxy-5-nitropyridine | 97.3 mmol, 15 g | COC1=NC=C(C=C1)[N+](=O)[O-] | C6H6N2O3
reactant | 4-chlorophenoxyacetonitrile | 107 mmol, 17.9 g | ClC1=CC=C(OCC#N)C=C1 | C8H6ClNO
reactant | potassium tert-butylate | 214 mmol, 24 g | CC(C)(C)[O-].[K+]
reactant | hydrochloric acid | 170 ml | Cl | ClH
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 220 ml | O1CCCC1 | C4H8O
product | 2-(6-Methoxy-3-nitro-2-pyridinyl)acetonitrile | COC1=CC=C(C(=N1)CC#N)[N+](=O)[O-] | C8H7N3O3
